US07037908B2
N-(3-chloro-4-methylbenzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (31 mg, 0.1 mmol) and 3-chloro-4-methylbenzylamine (78 mg, 0.5 mmol). The title product was obtained as an off-white solid (35.3 mg, 84% yield). 1HNMR (500 MHz, CDCl3) δ: 12.27 (1H, s), 7.78 (1H, br s), 7.53–7.45 (1H, m), 7.31–7.03 (5H, m), 4.52 (2H, d, J=3.96 Hz), 3.41 (3H, s), 2.33 (3H, s). HRMS (ESI) calcd for C20H17ClF2N3O3 (M+H): 420.0926; found: 420.0929.

reactant | 2-(2,6-difluoro-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.1 mmol, 31 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1F)F | C14H12F2N2O4
reactant | 3-chloro-4-methylbenzylamine | 0.5 mmol, 78 mg | ClC=1C=C(CN)C=CC1C | C8H10ClN
product | N-(3-chloro-4-methylbenzyl)-2-(2,6-difluorophenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | ClC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2F)F)C=CC1C | C20H16ClF2N3O3
